US08217064B2
[4-Nitro-3-(2,2,2-trifluoro-ethoxy)-phenyl]-acetic acid Methyl Ester
Concentrated sulfuric acid (50 mL) was added slowly to a solution of 2-(4-nitro-3-(2,2,2-trifluoro-ethoxy)phenyl)acetic acid (180 g, 0.64 mol) in MeOH (500 mL). The reaction mixture was stirred at room temperature overnight. The methanol was evaporated and EtOAc (500 mL) was added. The solution was washed with water (2×200 mL) and brine and dried over MgSO4. The solvent was evaporated, the solid residue was stirred with heptane (200 mL), and the solid was filtered. Yield 182.2 g (96%). 1H NMR (300 MHz, CDCl3/TMS): δ 7.82 (d, J=8.7 Hz, 1H), 7.07-7.05 (m, 2H), 4.47 (q, J=8.0 Hz, 2H), 3.68 (s, 3H), 3.67 (s, 2H). 13C NMR (75 MHz, CDCl3/TMS): δ 170.1, 150.4, 141.2, 139.4, 125.9, 123.9, 122.6 (d, 1JCF=277.6 Hz), 117.5, 67.6 (q, 1JCF=36.7 Hz), 52.4, 41.0.

reactant | sulfuric acid | 50 mL | S(O)(O)(=O)=O | H2O4S
reactant | 2-(4-nitro-3-(2,2,2-trifluoro-ethoxy)phenyl)acetic acid | 0.64 mol, 180 g | [N+](=O)([O-])C1=C(C=C(C=C1)CC(=O)O)OCC(F)(F)F | C10H8F3NO5
reactant | MeOH | 500 mL | CO | CH4O
product | [4-Nitro-3-(2,2,2-trifluoro-ethoxy)-phenyl]-acetic acid Methyl Ester | COC(CC1=CC(=C(C=C1)[N+](=O)[O-])OCC(F)(F)F)=O | C11H10F3NO5
